US05932075
A mixture of sulfur (15 g, 58.4 mmol), pyridine (15 mL, 14.67 g, 185.5 mmol), aqueous ammonia (28%; 20 mL), styrene (8.66 g, 83.3 mmol) and 4-t-butylcatechol (0.23 g, 1.69 mmol) was heated to 170° C. for 10 minutes then rapidly cooled using the cold-finger. Phenylacetamide was obtained upon workup (5.7 g, 51%). No impurities were detected in the 1H n.m.r. or 13C n.m.r. spectra.

reactant | sulfur | 58.4 mmol, 15 g | [S] | S
reactant | pyridine | 185.5 mmol, 15 mL, 14.67 g | N1=CC=CC=C1 | C5H5N
reactant | styrene | 83.3 mmol, 8.66 g | C=CC1=CC=CC=C1 | C8H8
reactant | 4-t-butylcatechol | 1.69 mmol, 0.23 g | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
solvent | ammonia | 20 mL | N | H3N
product | Phenylacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
